US05846688
50.0 g of the resin synthesized in Reference Example 1 was dissolved in 500 ml of acetone. After adding 4.8 g of potassium carbonate, 0.96 g of potassium iodide and 5.0 g of tert-butylchloroacetate, the solution obtained was refluxed for 10 hours. After filtration of the reaction solution, 1 l of methylisobutylketone was mixed to the resin solution thus obtained, and the resulting solution was washed three times with 500 ml of ion-exchange water. The methylisobutylketone was distilled out under reduced pressure to obtain hydrogenated poly(p-vinylphenol), wherein 12% of the hydroxyl groups were ethyletherified and 8% of the hydroxyl groups were tert-butoxycarbonylmethyletherified.

reactant | potassium carbonate | 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.96 g | [I-].[K+]
reactant | tert-butylchloroacetate | 5.0 g | C(C)(C)(C)OC(CCl)=O | C6H11ClO2
reactant | acetone | 500 ml | CC(=O)C | C3H6O
product | poly(p-vinylphenol) | C#CC1=CC=C(C=C1)O | C8H6O
